US06936606B2
To a stirred solution of Boc-1-aminocyclopropane-1-carboxylic acid (25 g, 124 mmol) and triethylamine (19 mL, 1.1 equivalent) in THF (200 mL) at −10° C. ethylchloroformate (13 mL, 1.1 equivalent) was added slowly. The mixture was stirred at this temperature for 20 min before a solution of ammonia in 1,4-dioxane (0.5 M, 300 mL) was added. It was allowed to warm to room temperature and stirred overnight. It was concentrated, diluted with water, extracted with dichloromethane, washed with brine, dried (sodium sulfate), concentrated again and dried to give (1-carbamoyl-cyclopropyl)-carbamic acid tert-butyl ester (18 g, 72.5%).

reactant | Boc-1-aminocyclopropane-1-carboxylic acid | 124 mmol, 25 g | C(=O)(OC(C)(C)C)C1C(C1)(C(=O)O)N | C9H15NO4
reactant | triethylamine | 19 mL, 1.1 equivalent | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 13 mL, 1.1 equivalent | C(C)OC(=O)Cl | C3H5ClO2
reactant | ammonia | N | H3N
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | 0.5 M, 300 mL | O1CCOCC1 | C4H8O2
product | (1-carbamoyl-cyclopropyl)-carbamic acid tert-butyl ester | 18 g, 72.5% | C(C)(C)(C)OC(NC1(CC1)C(N)=O)=O | C9H16N2O3
